US06576627B1
The monoethyl 2-(4-benzyloxycarbonylaminobutyl)malonate (3.03 g) obtained in the above step (d) was cooled to 0° C. and added with 36% formaldehyde solution (3 ml) and then with diethylamine (3 ml), and then the mixture was stirred at room temperature for 19.5 hours. Ethyl acetate was added to the reaction system to extract the organic substances, and the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (150 g, hexane:acetone=5:1) to obtain ethyl 2-(4-benzyloxycarbonylaminobutyl)acrylate (1.69 g, 62%).

reactant | monoethyl 2-(4-benzyloxycarbonylaminobutyl)malonate | 3.03 g | C(C1=CC=CC=C1)OC(=O)NCCCCC(C(=O)OCC)C(=O)[O-]
reactant | formaldehyde | 3 ml | C=O | CH2O
reactant | diethylamine | 3 ml | C(C)NCC | C4H11N
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(4-benzyloxycarbonylaminobutyl)acrylate | 1.69 g, 62% | C(C1=CC=CC=C1)OC(=O)NCCCCC(C(=O)OCC)=C | C17H23NO4
